US08192918B2
33.63 g (0.4 mol) 3-amino-1H-1,2,4-triazole was suspended in 300 ml acetone. 44.44 g (0.44 mol) triethyl amine was added and the mixture was cooled to 0° C. 33.63 g (0.44 mol) methacryloyl chloride was added dropwise over 45 minutes, while the temperature was kept at 0° C. The reaction was allowed to continue at 0° C. for one hour. The precipitated salts were removed by filtration and an additional 10 ml triethyl amine was added to the filtrate. The mixture was refluxed for 18 hours. The precipitated compounds were removed by filtration and the solvent was evaporated under reduced pressure. 6-methyl-4,5,6,7-tetrahydro-[1,2,4]triazolo[1,5-a]pyrimidin-5-on was isolated by preparative column chromatography on a Prochrom LC 80 system, using Kromasil C18 100 Å 10 μm silica and MeOH and an aqueous solution of 0.2% (v/v) triethyl amine and 0.5% (v/v) acetic acid in a 42/58 ratio as eluent, at a flow rate of 150 ml/min. 770 mg of 6-methyl-4,5,6,7-tetrahydro-[1,2,4]triazolo[1,5-a]pyrimidin-5-on was isolated.

reactant | 3-amino-1H-1,2,4-triazole | 0.4 mol, 33.63 g | NC1=NNC=N1 | C2H4N4
reactant | triethyl amine | 0.44 mol, 44.44 g | C(C)N(CC)CC | C6H15N
reactant | methacryloyl chloride | 0.44 mol, 33.63 g | C(C(=C)C)(=O)Cl | C4H5ClO
solvent | acetone | 300 ml | CC(=O)C | C3H6O
product | 6-methyl-4,5,6,7-tetrahydro-[1,2,4]triazolo[1,5-a]pyrimidin-5-on | CC1C(NC=2N(C1)N=CN2)=O | C6H8N4O
